US05532240
A mixture of 210 mg of 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, 200 mg of 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride, 250 mg of potassium carbonate and 140 mg of potassium iodide in 5 ml of dimethylformamide and 5 ml of toluene was stirred at 90° C. for 22 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel to give 160 mg of 6-acetyl-3-(2-(4-(6-fluorobenzo(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil.

reactant | 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 210 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
reactant | 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride | 200 mg | Cl.FC=1C=CC2=C(SC=C2C2CCNCC2)C1
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 140 mg | [I-].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-acetyl-3-(2-(4-(6-fluorobenzo(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 160 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C=2C1=C(SC2)C=C(C=C1)F | C25H29FN2OS2
